US05175164
6-Nitro-2-propylquinazolin-4(1H)-one.
To a solution of 16.3 g (0.1 mol) of 2-amino-5-nitrobenzonitrile in 200 ml of CH2Cl2 at 0° C. was added 21 ml (0.15 mol) of triethyl amine followed by 0.3 g of DMAP and 11.71 g (0.11 mol) of butyryl chloride. The reaction mixture was warmed to room temperature and then heated over night at 50° C. The solution was washed with 1N HCl (1×20 ml), water (1×20 ml), saturated NaHCO3 (2×20 ml) and brine (1×20 ml) and dried over MgSO4. The solution was filtered and concentrated in vacuo. The residue was dissolved in 200 ml of MeOH to which was added 44 ml (0.22 mol) of 5M NaOH solution followed by the dropwise addition of 25 ml (0.22 mol) 30% H2O2 and 50 ml of water. The mixture was refuxed for 4 hours, cooled and filtered. The filtrate was acidified with 1N HCl and the resulting precipitate recovered by filtration. The residue was recrystalized from MeOH to give 8.3 g (0.036 mol) of pale brown fluffy crystals. 36% yield. 1H NMR (CDCl3): 1.10 (t, 3H, J=7.4 Hz), 1.93 (m, 2H), 2.79 (3 line m, 2H, J=7.3 Hz), 7.80 (d, 1H, J=8.9 Hz), 8.55 (dd, 1H, J=2.5, 8.8 Hz), 9.14 (bs, 1H).

reactant | 2-amino-5-nitrobenzonitrile | 0.1 mol, 16.3 g | NC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | triethyl amine | 0.15 mol, 21 ml | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 0.11 mol, 11.71 g | C(CCC)(=O)Cl | C4H7ClO
reactant | NaOH | 0.22 mol, 5M, 44 ml | [OH-].[Na+]
reactant | H2O2 | 0.22 mol, 25 ml | OO | H2O2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.3 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 50 ml | O | H2O
product | 6-Nitro-2-propylquinazolin-4(1H)-one | 0.036 mol, 8.3 g, 36% yield | [N+](=O)([O-])C=1C=C2C(N=C(NC2=CC1)CCC)=O | C11H11N3O3
